US07342115B2
6-Isopropyl-2-methylbenzeneboronic acid (8 g) is added portionwise over 1 hour to 90% HNO3 (50 mL) at −40° C., maintaining an internal temperature below −30° C. After addition, the mixture is stirred at −40 to −30° C. for 15 minutes, then poured onto ice, and diluted with water. The solid is collected by filtration, washed with water and dried to give 6-isopropyl-2-methyl-3-nitrobenzeneboronic acid as a white solid. 1H NMR (DMSO-d6) 7.78 (d, 2H), 7.30 (d, 2H), 2.85 (m, 1H), 2.38 (s, 3H), 1.15 (d, 6H).

reactant | 6-Isopropyl-2-methylbenzeneboronic acid | 8 g | C(C)(C)C1=CC=CC(=C1B(O)O)C | C10H15BO2
reactant | HNO3 | 50 mL | [N+](=O)(O)[O-] | HNO3
solvent | water | O | H2O
product | 6-isopropyl-2-methyl-3-nitrobenzeneboronic acid | C(C)(C)C1=CC=C(C(=C1B(O)O)C)[N+](=O)[O-] | C10H14BNO4
